US06043269
(±)-(cis-4-(4-(2-Pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)-chroman-7-yl) 2,2-dimethylpropanoate
A mixture of (±)-cis-7-hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane (2.41 g, 4.98 mmol), triethylamine (3.40 ml, 24.4 mmol), 2,2-dimethylpropanoyl chloride (3.0 ml, 24.4 mmol) and tetrahydrofuran (150 ml) was stirred at room temperature for 4 days. The mixture was filtered to remove inorganic solids, the filter plug being washed with a little extra tetrahydrofuran. The solvents were then evaporated to give a colourless amorphous solid, which was recrystallised from 4:1 ethanol/water (20 ml) to give the product as colourless needles.

reactant | (±)-cis-7-hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane | 4.98 mmol, 2.41 g | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1 | C28H28F3NO3
reactant | triethylamine | 24.4 mmol, 3.40 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpropanoyl chloride | 24.4 mmol, 3.0 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (±)-(cis-4-(4-(2-Pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)phenyl)-chroman-7-yl) 2,2-dimethylpropanoate | CC(C(=O)OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1)(C)C | C33H36F3NO4
